US05455348
(3S,5S)-5-[[4-(5-amidino-2-pyridyl)phenyl]oxymethyl]-3-[(pivaloyloxymethyloxycarbonyl)methyl]-2-pyrrolidinone-hydrochloride
Prepared from (3S,5S)-5-[[4-(5-benzyloxycarbonylamidino-2-pyridyl)phenyl]oxymethyl]-3-[(pivaloyloxymethyloxycarbonyl)-methyl]-2-pyrrolidinone by hydrogenation with palladium on charcoal in dimethylformamide in the presence of hydrochloric acid.

reactant | (3S,5S)-5-[[4-(5-benzyloxycarbonylamidino-2-pyridyl)phenyl]oxymethyl]-3-[(pivaloyloxymethyloxycarbonyl)-methyl]-2-pyrrolidinone | C(C1=CC=CC=C1)OC(=O)NC(=N)C=1C=CC(=NC1)C1=CC=C(C=C1)OC[C@@H]1C[C@H](C(N1)=O)CC(=O)OCOC(C(C)(C)C)=O | C33H36N4O8
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium on charcoal | [Pd] | Pd
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (3S,5S)-5-[[4-(5-amidino-2-pyridyl)phenyl]oxymethyl]-3-[(pivaloyloxymethyloxycarbonyl)methyl]-2-pyrrolidinone-hydrochloride | Cl.C(N)(=N)C=1C=CC(=NC1)C1=CC=C(C=C1)OC[C@@H]1C[C@H](C(N1)=O)CC(=O)OCOC(C(C)(C)C)=O | InChI=1S/C25H30N4O6.ClH/c1-25(2,3)24(32)35-14-34-21(30)11-17-10-18(29-23(17)31)13-33-19-7-4-15(5-8-19)20-9-6-16(12-28-20)22(26)27;/h4-9,12,17-18H,10-11,13-14H2,1-3H3,(H3,26,27)(H,29,31);1H/t17-,18-;/m0./s1
